Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Lower left cheek pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ female transferred from ___ 
with L facial swelling and erythema. Patient is demented at 
baseline and normally lives in assisted living.  ___ 
records, patient was previously started on augmentin for 3 doses 
before being ___ to ___ ___ developed L sided cheek 
pain and swelling and was started on amoxicillin before being 
evaluated at ___. At ___ a CT neck was performed to 
rule out deep space abscess and she was started on Vanc/Cefepime 
after failing 2 days of augmentin.  No formal read of CT was 
available on transfer, but per notes anterior abscess with 
swelling.  Patient was given morphine for pain and Zofran and 
promethazine for nausea with good effect.  Patient is a poor 
historian and unable to corroborate her symptoms or history of 
present illness.  Given potential for infection to spread to 
deep spaces and facial tissue, she was transferred to ___ for 
further medical management. 

In the ED, the patient vitals were 97.1 66 116/43 18 100% Nasal 
Cannula. Exam was notable for 10cm swelling and erythema along 
mandible with no central fluctuance, but significant tenderness. 
 Started with 1x unasyn. She was evaluated by ___ who 
determined a localized LL vestibular abscess related to 
fractured tooth #20. However, patient refused bedside I&D.  It 
was recommended she be placed on Clindamycin q6h 7days and f/u 
with dentistry for removal/repair of fracture tooth.  She was 
admitted for overnight IV abx, observation.   No collateral 
could be reached on the evening of admission. 

On arrival to the floor, patient reported having L sided pain in 
her cheek that hurts with palpation, but is otherwise achy.  She 
was unable to contribute to history.  She endorsed feeling cold 
and pain with biting down and opening jaw, but no systemic 
symptoms.

REVIEW OF SYSTEMS:  
Negative unless specified above

 
Past Medical History:
HTN
Hypothyroidism
Dementia
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM
========================
General: Pleasant Elderly female in bed, NAD, Alert/oriented to 
person only.
HEENT: LL facial swelling. EOM Intact, PERRLA, vision grossly 
normal. Septum straight, nose non-tender, trismus; Erythematous 
LR border of the mandible tender to palpation, full range of 
motion of mandible, no guarding appreciated
TMJ: no clicking, no popping, no crepitus, full range of motion,
normal TMJ bilaterally, no pain TMJ
 Neck: normal range of motion, supple, no JVD, and no
lymphadenopathy
 IOE: fluctuant lesion noted in vestibule LL adjacent to
fractured tooth #20, oropharynx clear, no dysphagia, no
odynophagia, no lymphadenopathy, FOM soft non-elevated, 
dentition
grossly intact, uvula midline, occlusion stable and repeatable
 Skin: warm, dry, normal turgor, brisk capillary refill
 Larynx: normal voice, no hoarseness
CV: RRR, no murmurs, no gallops
Resp: No respiratory distress, no accessory muscle use, clear to
auscultation
GI/Abd: soft, nondistended, nontender, no HSM
Extremities: normal mobility, no deformities
Psych: Alert and Oriented to person and place only, pt. showing
signs of dementia
Neurology: cranial nerves II-XII grossly intact

DISCHARGE PHYSICAL EXAM:
===========================
VS -  98.2  68  131/56  20  98%RA
Physical Exam:
General: Elderly lying female in bed, NAD, Alert/oriented to 
person only.
HEENT: LL facial swelling along mandible with blanchable 
erythema. Tenderness to palpation, discomfort when open jaw 
wide/clench teeth; No clear exudate on bucal mucosa or gums. 
PERRLA, vision grossly normal, nose non-tender, no sinus 
tenderness;  oropharynx clear, no dysphagia, no odynophagia, no 
lymphadenopathy, 
Neck: normal range of motion, supple, no JVD, and no
lymphadenopathy
Skin: warm, dry, normal turgor, brisk capillary refill
 Larynx: normal voice, no hoarseness
CV: RRR, no murmurs, no gallops
Resp: No respiratory distress, no accessory muscle use, clear to
auscultation
GI/Abd: soft, nondistended, nontender, no HSM
Extremities: normal mobility, no deformities
Psych: Alert and Oriented to person and place only, pt. showing
signs of dementia
Neurology: cranial nerves II-XII grossly intact

 
Pertinent Results:
ADMISSION LABS:
===============
___ 07:08AM   LACTATE-0.9
___ 07:00AM BLOOD WBC-8.5 RBC-3.51* Hgb-11.0* Hct-34.2 
MCV-97 MCH-31.3 MCHC-32.2 RDW-13.2 RDWSD-47.0* Plt ___
___ 07:00AM BLOOD ___ PTT-25.9 ___
___ 07:00AM BLOOD Glucose-106* UreaN-15 Creat-0.6 Na-140 
K-3.4 Cl-101 HCO3-29 AnGap-13

Blood Cultures: ___
No growth to date

DISCHARGE LABS:
===============
___ 08:10AM BLOOD WBC-5.5 RBC-3.37* Hgb-10.4* Hct-32.7* 
MCV-97 MCH-30.9 MCHC-31.8* RDW-12.9 RDWSD-46.2 Plt ___
___ 08:10AM BLOOD Glucose-82 UreaN-12 Creat-0.6 Na-142 
K-3.2* Cl-102 HCO3-34* AnGap-9
___ 08:10AM BLOOD Calcium-8.8 Phos-3.7 Mg-2.___ with history of HTN and hypothyroidism and likely dementia 
who presents with Lower left sided swelling of her jaw, 
consistent with a LL Vestibular Abscess and carious tooth. 

#LL Vestibular Abscess: On arrival to the hospital patient was 
evaluated by ___ who determined that she had a fractured tooth 
(#20D) that is likely source of pain and swelling and infection. 
The patient did not have leukocytosis, was afebrile, 
normotensive, and breathing well without any sign of airway 
compromise.  The infection appeared very localized,.  An I/D was 
attempted in the ED by was declined by patient.  Patient was 
admitted to the floor and given Clindamycin IV abx (600mg Q6h). 
Tooth removal could not be scheduled because patient was 
consentable for procedure and we were unable to determine 
collateral given lack of documentation and poor patient insight. 
However, overnight swelling decreased and pain reduced. It was 
determined to continue PO abx for 7 days total and schedule 
outpatient tooth removal ASAP. In discussion with family, they 
have a dentist aware and prepared for tooth removal. 
  - Cont. clindamycin 600mg Q6h x7 days per OMSF
  - Will need #20D tooth removal 

#AMS: Patient is pleasant to alert, but only oriented to self. 
Baseline dementia. Has infection source that could have been 
exacerbating altered sensorium given her age/reduced mental 
substrate. Regardless, patient was directable and agreeable with 
treatment.  Overnight, she did require 1x Haldol for agitation.  
Gave amitriptyline and divalproex per OSH records. 
   
# Hypertension: Per OSH, history of HTN, controlled with 
diltiazem and HCTZ. In the setting of infection, all blood 
pressure meds were held. Family was advised to restart normal 
regimen on discharge. 

#Hypothyroidism: Per OSH, history of hypothyroidism, controlled 
with Levothyroxine.  Continued to give home dose. 

TRANSITIONAL ISSUES:
=====================
- Left vestibular abscess associated with carious tooth #20D 
will require removal. Please arrange dentistry appointment with 
patient. 
- Will need to finish 7 day course of Clindamycin 600mg PO Q6h 
(end date: ___.
- Patient medications could not be obtained from ___ 
before discharge, relied on ___ medication list. Should 
restart normal regimen upon return to ___.
HCP: ___: ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Influenza Vaccine Quadrivalent 0.5 mL IM NOW X1 
Start: ___, First Dose: Next Routine Administration Time 
2. Amitriptyline 10 mg PO QHS 
3. Aspirin 81 mg PO DAILY 
4. Diltiazem Extended-Release 240 mg PO DAILY 
5. Divalproex Sod. Sprinkles 125 mg PO TID 
6. Hydrochlorothiazide 12.5 mg PO DAILY 
7. Levothyroxine Sodium 25 mcg PO DAILY 
8. Vitamin D ___ UNIT PO 1X/WEEK (FR) 
NOTE: COULD NOT CONFIRM WITH PATIENT or FAMILY.
 
Discharge Medications:
1. Clindamycin 600 mg PO Q6H Duration: 6 Days 
RX *clindamycin HCl 300 mg 2 capsule(s) by mouth every six hours 
Disp #*48 Capsule Refills:*0
2. Amitriptyline 10 mg PO QHS 
3. Divalproex Sod. Sprinkles 125 mg PO TID 
4. Levothyroxine Sodium 25 mcg PO DAILY 
5. Aspirin 81 mg PO DAILY 
6. Diltiazem Extended-Release 240 mg PO DAILY 
7. Hydrochlorothiazide 12.5 mg PO DAILY 
8. Influenza Vaccine Quadrivalent 0.5 mL IM NOW X1 
Start: ___, First Dose: Next Routine Administration Time 
9. Vitamin D ___ UNIT PO 1X/WEEK (FR) 
NOTE: PATIENT SHOULD RESTART HOME REGIMEN, WHICH COULD NOT BE 
OBTAINED DURING THIS STAY.
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary: 
- vestibular abscess associated with carious tooth 
Secondary: 
- HTN
- Hypothyroidism
- Dementia

 
Discharge Condition:
Mental Status: Confused - alert to self, but not person or 
place.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ for a 
tooth abscess on your left jaw.  You had redness, swelling, and 
there was concern for a growing infection.  You were evaluated 
by our Oral maxillofacial surgery and determined that you needed 
antibiotics.  You were started on IV Clindamycin. The infection 
responded well, and you were discharged with the plan for 7 days 
total of oral antibiotics and to have the affected tooth removed 
with dentistry.

It was a pleasure taking care of you during your stay at ___ 
___.  If you have any questions about the care you received, 
please do not hesitate to ask.

Sincerely,
Your Inpatient Care Team 
 
Followup Instructions:
___